US09289430B2
2-methyl-1-(6-((4-(piperidin-1-yl)-2-((1-(3-(trifluoromethyl)phenyl)-1H-pyrazol-3-yl)carbamoyl)phenyl)carbamoyl)pyridin-2-yl)-5,8,11-trioxa-2-azatetradecan-14-oic acid
Into a 50-mL round bottom flask, was placed a solution of tert-butyl 3-(2-(2-(2-(((6-((4-(piperidin-1-yl)-2-((1-(3-(trifluoromethyl)phenyl)-1H-pyrazol-3-yl)carbamoyl)-phenyl)carbamoyl)pyridin-2-yl)methyl)(methyl)amino)ethoxy)ethoxy)ethoxy)propanoate (210 mg, 0.25 mmol, 1.00 equiv) in dichloromethane (4 mL), and trifluoroacetic acid (2 mL). The resulting solution was stirred for 2 h at room temperature. The reaction progress was monitored by LCMS. The resulting mixture was concentrated under vacuum. The crude product was purified by reverse phase HPLC eluting with a water/CH3CN gradient containing 0.05% TFA. The product was obtained as 32.9 mg (13%) of a brown solid. 1H-NMR (300 MHz, CD3OD, ppm): δ 8.81-8.78(d, J=9.3 Hz, 1H), 8.48-8.47(d, J=2.7 Hz, 1H), 8.33-8.31(d, J=7.5 Hz, 1H), 8.21-8.16(d, J=7.5 Hz, 2H), 7.87-7.86(d, J=2.4 Hz, 1H), 7.79-7.72(m, 2H), 7.64-7.62(d, J=6.9 Hz, 2H), 6.98-6.97(d, J=2.4 Hz, 1H), 4.75(s, 2H), 3.80-3.77(t, J=4.5 Hz, 2H), 3.66-3.47(m, 16H), 3.11-3.09(d, J=6.3 Hz, 3H), 2.49-2.45(d, J=6 Hz, 2H), 1.94-1.75(m, 6H). MS (ES, m/z): 782 [M+H]+.

reactant | tert-butyl 3-(2-(2-(2-(((6-((4-(piperidin-1-yl)-2-((1-(3-(trifluoromethyl)phenyl)-1H-pyrazol-3-yl)carbamoyl)-phenyl)carbamoyl)pyridin-2-yl)methyl)(methyl)amino)ethoxy)ethoxy)ethoxy)propanoate | 0.25 mmol, 210 mg, 1.00 equiv | N1(CCCCC1)C1=CC(=C(C=C1)NC(=O)C1=CC=CC(=N1)CN(CCOCCOCCOCCC(=O)OC(C)(C)C)C)C(NC1=NN(C=C1)C1=CC(=CC=C1)C(F)(F)F)=O | C43H54F3N7O7
reactant | trifluoroacetic acid | 2 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
product | 2-methyl-1-(6-((4-(piperidin-1-yl)-2-((1-(3-(trifluoromethyl)phenyl)-1H-pyrazol-3-yl)carbamoyl)phenyl)carbamoyl)pyridin-2-yl)-5,8,11-trioxa-2-azatetradecan-14-oic acid | 32.9 mg, 13% | CN(CC1=NC(=CC=C1)C(NC1=C(C=C(C=C1)N1CCCCC1)C(NC1=NN(C=C1)C1=CC(=CC=C1)C(F)(F)F)=O)=O)CCOCCOCCOCCC(=O)O | C39H46F3N7O7
